US08809342B2
Methyl 6-(4,4,4-trifluoro-1-(4′-(trifluoromethyl)biphenyl-4-yl)butylamino)nicotinate (18 mg, 0.037 mmol) was dissolved in 1 mL methanol. 500 μL 1N aqueous sodium hydroxide was added. The resulting solution was stirred overnight at room temperature then at 50° C. for 1 h. The solution was concentrated under reduced pressure and the residue partitioned between dichloromethane and 1N aqueous HCl. The organic layer was dried over MgSO4 and concentrated under reduced pressure. The residue was dissolved in 2 mL dichloromethane. Triethylamine (20 μL, 0.14 mmol), HOAt (10 mg, 0.073 mmol), and methyl 3-aminopropionate hydrochloride (10 mg, 0.072 mmol) were added. EDCI (10 mg, 0.052 mmol) was added and the resulting solution stirred 72 h at room temperature. The reaction solution was washed with water and the aqueous layer extracted with dichloromethane. The combined organic layers were dried over MgSO4 and concentrated to give a pale yellow oil. Purification by silica gel chromatography provided methyl 3-(6-(4,4,4-trifluoro-1-(4′-(trifluoromethyl)biphenyl-4-yl)butylamino)nicotinamido)propanoate (13 mg, 63%) as a colorless film. 1H NMR (400 MHz, CDCl3) δ 8.49 (d, J=2.1 Hz, 1H), 7.77 (dd, J=8.6 Hz, 2.4 Hz, 1H), 7.61-7.69 (m, 4H), 7.54-7.59 (m, 2H), 7.39-7.43 (m, 2H), 6.56-6.63 (m, 1H), 6.30 (d, J=8.6 Hz, 1H), 5.14 (d, J=7.8 Hz, 1H), 4.91-4.99 (m, 1H), 3.62-3.70 (m, 5H), 2.57-2.63 (m, 2H), 2.07-2.32 (m, 4H).

reactant | Methyl 6-(4,4,4-trifluoro-1-(4′-(trifluoromethyl)biphenyl-4-yl)butylamino)nicotinate | 0.037 mmol, 18 mg | FC(CCC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)NC1=NC=C(C(=O)OC)C=C1)(F)F | C24H20F6N2O2
reactant | sodium hydroxide | 1N, 500 μL | [OH-].[Na+]
reactant | Triethylamine | 0.14 mmol, 20 μL | C(C)N(CC)CC | C6H15N
reactant | HOAt | 0.073 mmol, 10 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | methyl 3-aminopropionate hydrochloride | 0.072 mmol, 10 mg | Cl.NCCC(=O)OC
reactant | EDCI | 0.052 mmol, 10 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | methanol | 1 mL | CO | CH4O
product | methyl 3-(6-(4,4,4-trifluoro-1-(4′-(trifluoromethyl)biphenyl-4-yl)butylamino)nicotinamido)propanoate | 13 mg, 63% | FC(CCC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)NC1=NC=C(C(=O)NCCC(=O)OC)C=C1)(F)F | C27H25F6N3O3
